*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/C0G(-55to125[deg])/4.70e-04[uF]/250[V]
* Murata P/N :GCM21A5C2E471FX01
* Property : C = 4.70e-04[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[MHz]-3[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM21A5C2E471FX01 Port1 Port2
C01 Port1 N01 4.70e-10
R01 Port1 N01 1.00e+11
L02 N01 N02 9.45e-11
R03 N02 N03 3.99e-03
C04 N03 N04 1.49e-07
R04 N03 N04 9.51e-01
L05 N04 N05 5.61e-11
R05 N04 N05 6.72e-02
C06 N05 N06 8.10e-08
L06 N05 N06 5.19e-11
R06 N05 N06 1.88e-02
C07 N06 N07 3.01e-09
L07 N06 N07 1.45e-11
R07 N06 N07 4.35e-01
C08 N07 N08 4.89e-10
L08 N07 N08 3.37e-11
R08 N07 N08 1.14e+00
C09 N08 N09 2.39e-10
L09 N08 N09 1.93e-11
R09 N08 N09 5.22e-01
C10 N09 N10 2.95e-10
L10 N09 N10 5.19e-12
R10 N09 N10 2.53e-01
C11 N10 Port2 7.58e-13
L11 N10 Port2 3.85e-10
R11 N10 Port2 2.98e+02
.ENDS GCM21A5C2E471FX01
